US06080754
5-Benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-3-hydroxymethylpyrrolo[2,1,5-cd]indolizine
Ethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-2-carboxylate (15.79 g, 30 mmol) was dissolved in 250 ml of dry tetrahydrofuran under a nitrogen atmosphere. Lithium aluminium hydride (1.8 g, 50 mmol) was added in small portions, and the mixture was stirred at room temperature for 21/2 hours. Water was added until effervescence terminated and solid potassium carbonate was added until a white suspension was formed. Diethyl ether (200 ml) was added and the reaction mixture was stirred vigorously. The reaction mixture was filtered through celite and the organic material was extracted into 3×100 ml of diethyl ether and 3×100 ml of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and the solvent was evaporated. The crude product was recrystallized from hot ethyl acetate and petroleum ether. This gave 13.06 g (89%) of 5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-3-hydroxymethyl-pyrrolo[2,1,5-cd]indolizine as yellow crystals. M.p. 133-134° C. MS(SP): m/z 487 (M+). 1H-NMR (DMSO-d6, 400 MHz) δ: 1.34 (t, 3H); 3.04 (q, 2H); 4.81 (s, 2H); 5.18 (m, 3H); 5.57 (s, 2H); 7.20 (d, 2H); 7.31-7.64 (m, 14H); 7.92 (d, 1H). The structure has been proven by COSY, ROESY and NOESY, 400 MHz.

reactant | Ethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-2-carboxylate | 30 mmol, 15.79 g | C(C1=CC=CC=C1)OC=1C=CC=2N3C(C(=CC13)C(=O)OCC)=C(C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C35H31NO4
reactant | Lithium aluminium hydride | 50 mmol, 1.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | Diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 5-Benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-3-hydroxymethylpyrrolo[2,1,5-cd]indolizine | C(C1=CC=CC=C1)OC=1C=2N3C(C(=C(C3=CC1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=C(C2)CO | C33H29NO3
